US07256186B2
6-bromopicolinic acid (1.99 g) in DMF (10 mL) was treated with potassium carbonate (1.40 g) and then methyl iodide (4 mL) at room temperature for 20 h. The reaction mixture was diluted with dichloromethane (60 mL) and filtered. The filtrate was extracted with brine (twice), dried (MgSO4), and concentrated under vacuum to give methyl 6-bromopicolinate as a pale yellow solid (1.75 g).

reactant | 6-bromopicolinic acid | 1.99 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | potassium carbonate | 1.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | methyl 6-bromopicolinate | 1.75 g | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
